* source _FIG3_10_MSD
R_RIB         VINM N01998  100k TC=0,0 
R_RIT         VINP N02014  100k TC=0,0 
V_Vinp         VINP 0 DC .5Vdc AC .5Vac 
V_Vinm         VINM 0 DC .5Vdc AC -.5Vac 
R_RFB         VOUTP N01998  100k TC=0,0 
C_C1         N02014 VOUTM  10p  TC=0,0 
C_C2         N01998 VOUTP  10p  TC=0,0 
V_VCM         VCM 0 DC .5  
R_RFT         VOUTM N02014  100k TC=0,0 
R_U1_R1         U1_N00266 U1_N00253  1k TC=0,0 
E_U1_E4         VOUTM 0 U1_N00253 0 1
R_U1_R2         U1_N00262 U1_N00326  1k TC=0,0 
E_U1_E5         VOUTP 0 U1_N00326 0 1
E_U1_E1         U1_N00266 U1_N00270 N01998 N02014 1e4
C_U1_C1         0 U1_N00253  159n  TC=0,0 
E_U1_E2         U1_N00270 U1_N00262 N01998 N02014 1e4
C_U1_C2         U1_N00326 0  159n  TC=0,0 
E_U1_E3         U1_N00270 0 VCM 0 1
