* source _FIG3_23_MSD
V_Vphi1         VPHI1 0  
+PULSE 0 1 0 200p 200p 4n 10n
V_Vphi2         VPHI2 0  
+PULSE 0 1 5n 200p 200p 4n 10n
V_VDD         VDD 0 DC 1  
V_VCM         VCM 0 DC .5  
G_U1_G1         0 VOUT VCM N02284 1Meg
R_U1_R1         0 VOUT  1 TC=0,0 
R_U2_R1         0 U2_VTRIP  100Meg TC=0,0 
R_U2_R2         U2_VTRIP VDD  100Meg TC=0,0 
X_U2_S1    VPHI1 U2_VTRIP VOUT N02251 SCHEMATIC1_U2_S1 
X_U2_S2    VPHI2 U2_VTRIP N02251 N02284 SCHEMATIC1_U2_S2 
R_U3_R1         0 U3_VTRIP  100Meg TC=0,0 
R_U3_R2         U3_VTRIP VDD  100Meg TC=0,0 
X_U3_S1    VPHI4 U3_VTRIP VIN N02255 SCHEMATIC1_U3_S1 
X_U3_S2    VPHI2 U3_VTRIP N02255 VCM SCHEMATIC1_U3_S2 
C_Cl         N02255 N02251  1p  TC=0,0 
C_C1         N02284 VOUT  10p  TC=0,0 
V_Vin         VIN 0  
+SIN .5 500m 1.59Meg 0 0 0

.subckt SCHEMATIC1_U2_S1 1 2 3 4  
S_U2_S1         3 4 1 2 _U2_S1
RS_U2_S1         1 2 1G
.MODEL         _U2_S1 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=0.5V
.ends SCHEMATIC1_U2_S1

.subckt SCHEMATIC1_U2_S2 1 2 3 4  
S_U2_S2         3 4 1 2 _U2_S2
RS_U2_S2         1 2 1G
.MODEL         _U2_S2 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=0.5V
.ends SCHEMATIC1_U2_S2

.subckt SCHEMATIC1_U3_S1 1 2 3 4  
S_U3_S1         3 4 1 2 _U3_S1
RS_U3_S1         1 2 1G
.MODEL         _U3_S1 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=0.5V
.ends SCHEMATIC1_U3_S1

.subckt SCHEMATIC1_U3_S2 1 2 3 4  
S_U3_S2         3 4 1 2 _U3_S2
RS_U3_S2         1 2 1G
.MODEL         _U3_S2 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=0.5V
.ends SCHEMATIC1_U3_S2
