* source _FIG3_37_MSD
R_R1         VIN N00416  1.414k TC=0,0 
L_L1         N00416 VOUT1  100uH  
C_C1         VOUT1 0  100p   
V_V1         VIN 0 DC 0Vdc AC 1Vac 
C_C2         VOUT2 0  100p   
L_L2         N00683 VOUT2  100uH  
R_R2         VIN N00683  2k TC=0,0 
R_R3         VIN N00957  5k TC=0,0 
C_C3         VOUT3 0  100p   
L_L3         N00957 VOUT3  100uH  
L_L4         N01238 VOUT4  100uH  
R_R4         VIN N01238  1k TC=0,0 
C_C4         VOUT4 0  100p   
L_L5         N01526 VOUT5  100uH  
R_R5         VIN N01526  200 TC=0,0 
C_C5         VOUT5 0  100p   
