* source _FIG3_40_MSD
R_R1         N00163 VOUT  707 TC=0,0 
L_L1         VOUT 0  100u  
C_C1         VOUT 0  100p   
V_V1         N00163 0 DC 0Vdc AC 1Vac 
