* source _FIG3_7_MSD
V_Vinm         VINM 0 DC .5Vdc AC -.5Vac 
R_RIT         VINP N01314  1k TC=0,0 
V_VCM         VCM 0 DC .5  
R_RIB         VINM N01298  1k TC=0,0 
R_RFB         VOUTP N01298  10k TC=0,0 
R_RFT         VOUTM N01314  10k TC=0,0 
V_Vinp         VINP 0 DC .5Vdc AC .5Vac 
R_U1_R3         U1_N00417 U1_N00447  .0001 TC=0,0 
R_U1_RT         U1_N00417 VOUTM  1 TC=0,0 
R_U1_RB         VOUTP U1_N00417  1 TC=0,0 
R_U1_R4         U1_N00417 U1_N01744  .0001 TC=0,0 
G_U1_G1         VOUTM U1_N00405 N01298 N01314 100Meg
G_U1_G2         U1_N00405 VOUTP N01298 N01314 100Meg
R_U1_R5         U1_N00405 U1_N00417  .0001 TC=0,0 
G_U1_G3         U1_N00447 0 VCM U1_N01744 100Meg
C_C1         N01314 VOUTM  10p  TC=0,0 
C_C2         N01298 VOUTP  10p  TC=0,0 
