* source _FIG2_18_MSD
E_E2         0 VOUT N00534 VOUT 100Meg
X_S1    VTRIP CLOCK VINB VINS _Fig2_18_MSD_S1 
X_S2    CLOCK VTRIP VINS N00534 _Fig2_18_MSD_S2 
E_E1         0 VINB VIN VINB 100Meg
C_C1         0 VINS  1e-10  TC=0,0 
C_C2         0 N00534  1e-16  TC=0,0 
V_Vtrip         VTRIP 0 DC .5  
V_Vin         VIN 0  
+SIN .5 .5 3Meg 0 0 0
V_Vclock         CLOCK 0  
+PULSE 0 1 0 0 0 4.9n 10n

.subckt _Fig2_18_MSD_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends _Fig2_18_MSD_S1

.subckt _Fig2_18_MSD_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends _Fig2_18_MSD_S2
