* source _FIG2_35_MSD
V_Vphi2         PHI2 0  
+PULSE 0 1 5n 200p 200p 4n 10n
C_CI         0 N00460  1p  TC=0,0 
V_VDD         VDD 0 DC 1  
C_CF         0 VOUT  10p  TC=0,0 
V_Vphi1         PHI1 0  
+PULSE 0 1 0 200p 200p 4n 10n
V_VCM         VCM 0 DC .5  
V_Vin         VIN 0  
+SIN .5 .5 1.59Meg 0 0 0
X_U2_S1    PHI1 U2_VTRIP VIN N00460 switches_2_U2_S1 
R_U2_R1         0 U2_VTRIP  100Meg TC=0,0 
R_U2_R2         U2_VTRIP VDD  100Meg TC=0,0 
X_U2_S2    PHI2 U2_VTRIP N00460 VOUT switches_2_U2_S2 

.subckt switches_2_U2_S1 1 2 3 4  
S_U2_S1         3 4 1 2 _U2_S1
RS_U2_S1         1 2 1G
.MODEL         _U2_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e.3 Von=1e-3
.ends switches_2_U2_S1

.subckt switches_2_U2_S2 1 2 3 4  
S_U2_S2         3 4 1 2 _U2_S2
RS_U2_S2         1 2 1G
.MODEL         _U2_S2 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends switches_2_U2_S2
